US04618627
A mixture of 640 mg of oily sodium hydride (60%) and 10 mg of dimethyl sulfoxide was stirred for 45 minutes at 75° to 80° C. After cooling the mixture, a mixture of 50 ml of dimethyl sulfoxide and 8.2 g of 8-ethylenedioxynonyl triphenylphosphonium bromide prepared from 2-methyl-2-(7-bromoheptyl)-1,3-dioxolan and triphenylphosphin was added to the mixture. After 10 minutes, a mixture of 2.5 g of 3.4-dibenzyloxybenzaldehyde and 10 ml of dimethyl sulfoxide was added to the mixture at room temperature and the resultant mixture was stirred overnight. To the reaction mixture was added 500 ml of water and the product was extracted with ether. The extract was washed with water, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to provide an oily product. The product was applied to the silica gel (200 ml) column chromatography and eluted with a mixture of n-hexane and ether (1:1) to provide 1.4 g of 1-(3,4 -dibenzyloxyphenyl)-9-ethylenedioxy-1-decene.

reactant | sodium hydride | 640 mg | [H-].[Na+]
reactant | 8-ethylenedioxynonyl triphenylphosphonium bromide | 8.2 g | [Br-].C1OC(CCCCCCC[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)COC1
reactant | 2-methyl-2-(7-bromoheptyl)-1,3-dioxolan | CC1(OCCO1)CCCCCCCBr | C11H21BrO2
reactant | triphenylphosphin | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3.4-dibenzyloxybenzaldehyde | 2.5 g | C(C1=CC=CC=C1)OC=1C=C(C=O)C=CC1OCC1=CC=CC=C1 | C21H18O3
catalyst | dimethyl sulfoxide | 10 mg | CS(=O)C | C2H6OS
solvent | water | 500 ml | O | H2O
solvent | dimethyl sulfoxide | 10 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 50 ml | CS(=O)C | C2H6OS
product | 1-(3,4 -dibenzyloxyphenyl)-9-ethylenedioxy-1-decene | 1.4 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1OCC1=CC=CC=C1)C=CCCCCCCC1COCCO1 | C32H38O4
